2127-02-25 07:56:00 Physician Resident Progress Note
Chief Complaint: A fib
   24 Hour Events:
 OR RECEIVED - At [**2127-2-24**] 06:00 PM
 EKG - At [**2127-2-24**] 06:30 PM
   done as pt had rapid afib in the or..
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-2-24**] 11:30 PM
   Ceftriaxone - [**2127-2-25**] 01:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2127-2-25**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: distension
   Flowsheet Data as of  [**2127-2-25**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 112 (63 - 120) bpm
   BP: 111/62(73) {84/52(59) - 111/74(77)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    993 mL
                                                                  1,780 mL
   PO:
             TF:
   IVF:
                                                                    993 mL
                                                                  1,780 mL
   Blood products:
   Total out:
                                                                    210 mL
                                                                    440 mL
   Urine:
                                                                    150 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     50 mL
   Balance:
                                                                    783 mL
                                                                  1,340 mL
   Respiratory support
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   152 K/uL
   12.2 g/dL
   111 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   138 mEq/L
   35.7 %
   13.2 K/uL
        [image002.jpg]
                             [**2127-2-24**]  10:53 PM
                             [**2127-2-25**]  03:04 AM
   WBC
   14.1
   13.2
   Hct
   37.9
   35.7
   Plt
   163
   152
   Cr
   1.6
   1.5
   Glucose
   144
   111
   Other labs: PT / PTT / INR:14.7/25.3/1.3, CK / CKMB /
   Troponin-T:4078/36/, ALT / AST:41/134, Alk Phos / T Bili:48/2.8,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 69 year old male with a history of pAF, s/p radical
   cystectomy and neobladder.
   .
   Plan:
   .
   # Atrial fibrillation:  Now weaned off of diltiazem, with relatively
   good rate control.  Cannot get long-acting nodal [**Doctor Last Name **] as cannot get PO
   meds per urology.  Would favor transitioning to IV BB for now when BP
   tolerates.
   - Metoprolol 5 mg IV q6 hours, when/if BP improves for goal HR < 100
   - No anticoagulation for now given recent procedure (CHADS-2 score = 1)
   - ECG in AM
   - Resume oral BB when able to take PO
   - Check TSH
   - Afib is infrequent peri-ischemic rhythm, but given hypotension will
   ROMI with 2 sets
   .
   # Hypotension: Afebrile, no e/o infection.  Minimal blood loss during
   procedure.  Iatrogenic etiology possible in setting of nodal agents.
   Hypovolemia also likely as appears dry on exam.
   - Culture if spikes
   - 500 cc IVF bolus for now and assess response
   - STAT hct, type and screen, coags
   - Empirc abx per urology team (CTX, flagyl)
   .
   # Transitional cell carcinoma: s/p cystectomy today.
   - Morphine PCA per urology team
   - CTX, flagyl as above
   - NPO
   .
   # FEN: NPO per urology service
   .
   # Access: pIV 16 g
   .
   # PPx:  heparin sq, p-boots
   .
   # Code: Full per discussion
 CANCER (MALIGNANT NEOPLASM), OTHER
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2127-2-24**] 06:27 PM
   18 Gauge - [**2127-2-25**] 12:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-02-26 07:00:00 Physician Resident Progress Note
Chief Complaint: This is a 69 year old male with a history of pAF, s/p
   radical cystectomy and neobladder.
   24 Hour Events:
   - d/c dilt gtt, started esmolol gtt
   - CK and Cr trending down on pm labs
   -gave 750 during day in LR boluses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-2-25**] 01:00 AM
   Metronidazole - [**2127-2-25**] 09:25 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-2-25**] 03:26 PM
   Famotidine (Pepcid) - [**2127-2-25**] 07:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-2-26**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 121 (92 - 124) bpm
   BP: 93/62(69) {70/38(44) - 120/76(98)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,422 mL
                                                                  1,361 mL
   PO:
             TF:
   IVF:
                                                                  5,422 mL
                                                                  1,361 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    825 mL
   Urine:
                                                                  1,855 mL
                                                                    675 mL
   NG:
                                                                    100 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  3,217 mL
                                                                    536 mL
   Respiratory support
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   11.1 g/dL
   151 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   25 mg/dL
   108 mEq/L
   139 mEq/L
   33.9 %
   11.3 K/uL
        [image002.jpg]
                             [**2127-2-24**]  10:53 PM
                             [**2127-2-25**]  03:04 AM
                             [**2127-2-25**]  02:57 PM
                             [**2127-2-26**]  02:51 AM
   WBC
   14.1
   13.2
   11.3
   Hct
   37.9
   35.7
   33.9
   Plt
   163
   152
   147
   Cr
   1.6
   1.5
   1.2
   1.0
   Glucose
   144
   111
   133
   151
   Other labs: PT / PTT / INR:15.3/25.9/1.3, CK / CKMB /
   Troponin-T:3591/36/, ALT / AST:41/134, Alk Phos / T Bili:48/2.8,
   Differential-Neuts:86.8 %, Lymph:7.2 %, Mono:5.3 %, Eos:0.3 %, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 69 year old male with a history of pAF, s/p radical
   cystectomy and neobladder.
   # Atrial fibrillation:  Patient had been weaned off diltiazem drip but
   then had to be restarted due to hypotension and inability to tolerate
   boluses of metoprolol.  Was then tried on IV metoprolol with poor rate
   control.  Both drips were d/c
d and patient was started on esmolol drip
   with improvement of HR to 100s.   Will ultimately need po medications
   for rate control.
   - d/c esmolol; start po metoprolol and uptitrate for rate control as
   tolerated by BP
   - No anticoagulation for now given recent procedure (CHADS-2 score = 1)
   but would anticipate initiating ASA 81 po qd soon
   - daily ECG
   # Hypotension: Afebrile, no e/o infection.  Minimal blood loss during
   procedure.  Iatrogenic etiology  seems most likely in setting of nodal
   agents with hypovolemia probably worsening.
   - Culture if spikes
   - telemetry .
   # Transitional cell carcinoma: s/p cystectomy and neobladder
   construction
   - Morphine PCA per urology team
   - Was on CTX, flagyl as infection prophylaxis per urology but will d/c
   today
   - STRICT NPO except for cardiac meds
   # FEN: NPO
   # Access: pIV 16 g
   # PPx:  heparin sq, p-boots, H2 blocker
   # Code: Full per discussion
   #Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2127-2-24**] 06:27 PM
   18 Gauge - [**2127-2-25**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: